US05223498
Reaction of 2-morpholino-5-trifluoromethylphenyl isothiocyanate (12 g) in ethanol (20 ml) with 33% ethanolic ammonia solution (50 ml) at room temperature for 2 hours gave 1-(2-morpholino-5-trifluoromethylphenyl)thiourea (m.p. 196°-197° C.).

reactant | 2-morpholino-5-trifluoromethylphenyl isothiocyanate | 12 g | O1CCN(CC1)C1=C(C=C(C=C1)C(F)(F)F)N=C=S | C12H11F3N2OS
reactant | ammonia | 50 ml | N | H3N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-(2-morpholino-5-trifluoromethylphenyl)thiourea | O1CCN(CC1)C1=C(C=C(C=C1)C(F)(F)F)NC(=S)N | C12H14F3N3OS
